US05834486
c) N-BOC-N-ethyl-3-bromo-propylamine
11 g (0.0618 mol) of N-bromosuccinimide are added in the course of 5 minutes, with stirring, to a solution, which has been cooled to 0° C., of 10.49 g (0.0516 mol) of 3-(N-BOC-ethylamino)-1-propanol and 16.23 g (0.0619 mol) of triphenylphosphine in 160 ml of methylene chloride. The reaction mixture is stirred for a further 30 minutes at 0°-20° C. and is then concentrated by evaporation in vacuo. The dark-colored oily residue is stirred with 200 ml of hexane, whereupon a brown precipitate forms. After filtration and concentration of the filtrate by evaporation in vacuo, the title compound is obtained in the form of an oil, Rf value=0.71 (silica gel/tert-butyl methyl ether).

reactant | N-bromosuccinimide | 0.0618 mol, 11 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 3-(N-BOC-ethylamino)-1-propanol | 0.0516 mol, 10.49 g | C(=O)(OC(C)(C)C)N(CCCO)CC | C10H21NO3
reactant | triphenylphosphine | 0.0619 mol, 16.23 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | methylene chloride | 160 ml | C(Cl)Cl | CH2Cl2
product | N-BOC-N-ethyl-3-bromo-propylamine | C(=O)(OC(C)(C)C)N(CC)CCCBr | C10H20BrNO2
